US04870063
2-(1-Butyl)-thiomorpholine, hydrochloride
A solution of the crude 2-(1-butyl)-thiomorpholine in ether was treated with an excess of hydrogen chloride in ether to yield a crystalline hydrochloride with melting point 104° C.

reactant | 2-(1-butyl)-thiomorpholine | C(CCC)C1CNCCS1 | C8H17NS
reactant | hydrogen chloride | Cl | ClH
solvent | ether | CCOCC | C4H10O
product | 2-(1-Butyl)-thiomorpholine, hydrochloride | Cl.C(CCC)C1CNCCS1 | InChI=1S/C8H17NS.ClH/c1-2-3-4-8-7-9-5-6-10-8;/h8-9H,2-7H2,1H3;1H
